US06548448B2
A solution of 8 ml (0.0622 mol) of 2,3-dibromopropene in 50 ml diethyl ether was placed under a nitrogen atmosphere by use of a Firestone valve. While cooling in an ice water bath, a solution of 62 ml (0.062 mol) of 1M 4-chlorophenylmagnesium bromide in diethyl ether was added slowly via addition funnel. After stirring for 2 hours while warming to room temperature, the reaction was recooled in an ice bath and 50 ml of 1 N hydrochloric acid was then added via syringe. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo. The residue was triturated with cold pentanes to yield 12.0 g of 1-(2-bromo-allyl)-4-chloro-benzene as an oil which was used in without further purification.

reactant | 2,3-dibromopropene | 0.0622 mol, 8 ml | BrC(=C)CBr | C3H4Br2
reactant | 4-chlorophenylmagnesium bromide | 0.062 mol, 1M, 62 ml | ClC1=CC=C(C=C1)[Mg]Br
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-(2-bromo-allyl)-4-chloro-benzene | 12.0 g | BrC(CC1=CC=C(C=C1)Cl)=C | C9H8BrCl
